US04318913
1-Methyl-N3 -[5-hydroxypentyl]-N5 -[3-[3-[(dimethylamino) methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine
1-Methyl-N5 -[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine (1.0 g) and 5-hydroxypentanal (1.9 ml) were heated at reflux in ethanol (30 ml) for 5 h. The solution was cooled at 5° and treated with sodium borohydride (0.76 g). The resulting suspension was stirred at room temperature for 16 h, treated with water and reduced in volume in vacuo. The aqueous solution was extracted with ethyl acetate, and the organic extracts were distilled to give the title compound as a pale yellow oil (0.47 g) b.p. 250°/0.5 mm. TLC silica; ethyl acetate:isopropanol:water: 0.88 ammonia 25:15:8:2, Rf 0.6.

reactant | 1-Methyl-N5 -[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 1.0 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN(C)C)N | C15H24N6O
reactant | 5-hydroxypentanal | 1.9 ml | OCCCCC=O | C5H10O2
reactant | sodium borohydride | 0.76 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-Methyl-N3 -[5-hydroxypentyl]-N5 -[3-[3-[(dimethylamino) methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 0.47 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN(C)C)NCCCCCO | C20H34N6O2
